US09102622B2
N-[4-(3-Nitro-phenoxy)-butyl]saccharin (83.9).
The title compound was synthesized analogously to 83.8, using a solution of saccharin (92 mg, 0.5 mmol) in anhydrous DMF (4 mL), NaH (60% dispersion in mineral oil, 21 mg, 0.52 mmol) and a solution of 1-(4-bromobutoxy)-3-nitrobenzene (164 mg, 0.6 mmol) in anhydrous. DMF (1 mL). The crude product obtained after workup was purified by flash column chromatography on silica gel (25% ethyl acetate-petroleum ether) to give 83.9 as a white solid (m p 87-89° C.) in 55% yield (95 mg).

reactant | saccharin | 0.5 mmol, 92 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | NaH | 0.52 mmol, 21 mg | [H-].[Na+]
reactant | 1-(4-bromobutoxy)-3-nitrobenzene | 0.6 mmol, 164 mg | BrCCCCOC1=CC(=CC=C1)[N+](=O)[O-] | C10H12BrNO3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[4-(3-Nitro-phenoxy)-butyl]saccharin | 55% yield | [N+](=O)([O-])C=1C=C(OCCCCN2S(=O)(=O)C3=CC=CC=C3C2=O)C=CC1 | C17H16N2O6S
